US04713387
In 50 ml of ethylene glycol was dissolved 5.0 g of potassium tert-butoxide, and a mixture solution of 6 ml of N,N-dimethylformamide and 5.0 g of 3-[p-(3-chloro-2-methylpropionyl)benzyl]pyridine was added in small portions to the above solution with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for 2 hours, and then neutralized with 9 ml of 2N hydrochloride acid and diluted with 50 ml of water. The resulting mixture was extracted with two 50-ml portions of methylene chloride. The extracts were combined, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: chloroform:ethyl acetate (1:3 by volume)] to obtain 5.63 g (yield 85.8%) of colorless, oily 3-[p-[3-(2-hydroxyethyl)oxy-2-methylpropionyl]benzyl]pyridine.

reactant | potassium tert-butoxide | 5.0 g | CC(C)([O-])C.[K+]
reactant | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 3-[p-(3-chloro-2-methylpropionyl)benzyl]pyridine | 5.0 g | ClCC(C(=O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C16H16ClNO
reactant | hydrochloride | 2N, 9 ml | Cl | ClH
solvent | ethylene glycol | 50 ml | C(CO)O | C2H6O2
solvent | water | 50 ml | O | H2O
product | 3-[p-[3-(2-hydroxyethyl)oxy-2-methylpropionyl]benzyl]pyridine | yield 85.8% | OCCOCC(C(=O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C18H21NO3
